US09127003B2
Intermediate 61: Methyl 2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole-5-carboxylate
5-Bromo-2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole (314 mg, 0.715 mmol), molybdenum hexacarbonyl (94 mg, 0.357 mmol), methanol (0.434 mL, 10.72 mmol), DIPEA (0.250 mL, 1.430 mmol), DMAP (175 mg, 1.430 mmol) and trans-bis(acetato)bis[o-(di-o-tolylphosphino)benzyl]dipalladium(II) (34 mg, 0.036 mmol) were dissolved in 1,4-dioxane (12 mL) in a microwave vial. The reaction vessel was sealed and heated in Biotage Initiator microwave to 190° C. for 2 h. After allowing the reaction mixture to cool, LCMS showed ˜37% conversion to the desired product, as well as ˜12% conversion to the hydrolysed product. The reaction mixture was concentrated in vacuo to give the crude product, methyl 2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole-5-carboxylate (512 mg, 1.224 mmol, 171% yield) as a brown gum which was used without further purification.

reactant | 5-Bromo-2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole | 0.715 mmol, 314 mg | BrC1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C(=C1)OC(F)(F)F | C18H14BrF3N4O
reactant | methanol | 10.72 mmol, 0.434 mL | CO | CH4O
reactant | DIPEA | 1.430 mmol, 0.250 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | DMAP | 1.430 mmol, 175 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | molybdenum hexacarbonyl | 0.357 mmol, 94 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
catalyst | trans-bis(acetato)bis[o-(di-o-tolylphosphino)benzyl]dipalladium(II) | 0.036 mmol, 34 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | Methyl 2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole-5-carboxylate | C(C)N1C(=CC=2C1=NC=CC2)C2=NC1=C(N2C)C(=CC(=C1)C(=O)OC)OC(F)(F)F | C20H17F3N4O3
